US06245778B1
Methyl 3-Cyano-4-iso-propoxybenzoate
Methyl 3-bromo-4-iso-propoxybenzoate (2.0 g, 7.3 mmol) and copper(I)cyanide in N-methyl pyrrolidone (50 ml) were heated under vigorous reflux for 4 h. Work-up with ethyl acetate gave the title compound (1.0 g).

reactant | Methyl 3-bromo-4-iso-propoxybenzoate | 7.3 mmol, 2.0 g | BrC=1C=C(C(=O)OC)C=CC1OC(C)C | C11H13BrO3
reactant | copper(I)cyanide | [Cu]C#N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methyl pyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | Methyl 3-Cyano-4-iso-propoxybenzoate | 1.0 g | C(#N)C=1C=C(C(=O)OC)C=CC1OC(C)C | C12H13NO3
